US20010047105A1
Following the procedure described for Preparation 8, Step C, 5-[4-(3-fluoro-phenyl)-3-hydroxy-butyl]-pyrrolidin-2-one (2.23 g, 8.87 mmol) was reacted with tert-butyldimethylsilyl chloride (1.47 g, 9.76 mmol). Purification by medium pressure chromatography using a solvent gradient (1:1 hexanes:EtOAc to EtOAc to 1% MeOH in CH2Cl2 to 2% MeOH in CH2Cl2 to 4% MeOH in CH2Cl2) provided 5-[3-(tert-butyl-dimethyl-silanyloxy)-4-(3-fluoro-phenyl)-butyl]-pyrrolidin-2-one (2.84 g). 1H NMR (CDCl3) δ7.23 (m, 1H), 6.88 (m, 3H), 5.75 (m, 1H), 3.85 (m, 1H), 3.57 (m, 1H), 2.71 (m, 2H), 2.30 (m, 2H), 2.25 (m, 1H), 1.70-1.38 (m, 5H), 0.84 (s, 9H), 0 (s, 3H), −0.2 (s, 3H).

reactant | 5-[4-(3-fluoro-phenyl)-3-hydroxy-butyl]-pyrrolidin-2-one | 8.87 mmol, 2.23 g | FC=1C=C(C=CC1)CC(CCC1CCC(N1)=O)O | C14H18FNO2
reactant | tert-butyldimethylsilyl chloride | 9.76 mmol, 1.47 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
product | 5-[3-(tert-butyl-dimethyl-silanyloxy)-4-(3-fluoro-phenyl)-butyl]-pyrrolidin-2-one | 2.84 g | C(C)(C)(C)[Si](OC(CCC1CCC(N1)=O)CC1=CC(=CC=C1)F)(C)C | C20H32FNO2Si
